US09102591B2
4-(4-Trifluoromethyl-phenyl)-tetrahydro-pyran-4-carbonitrile
A solution of 4-trifluoromethylbenzyl cyanide (0.92 g, 5.0 mmol) and bis(2-bromoethyl)ether (2.3 mL, 18 mmol) in DMF (10 mL) at room temperature was treated portion wise with sodium hydride (60% in mineral oil, 0.6 g, 15 mmol) over a period of 10 mins followed by stirring at the same temperature for 1 h. The mixture was then stirred at 70° C. for 16 h. Then cooled to room temperature and the reaction mixture was quenched with slow addition of methanol. Water (100 mL) was added and the mixture was extracted with EtOAc (3×50 mL). The combined organic extracts were washed with water and brine and dried over sodium sulfate, filtered and concentrated. The concentrate was purified by column chromatography using a gradient of 5% EtOAc in hexanes to 30% EtOAc in hexanes to give the title compound (1.11 g, yield: 87%). 1H NMR (CDCl3 300 MHz): δppm 7.75 (d, 2H), 7.65 (d, 2H), 4.20-4.09 (m, 2H), 4.00-3.85 (m, 2H), 2.27-2.05 (m, 4H).

reactant | 4-trifluoromethylbenzyl cyanide | 5.0 mmol, 0.92 g | FC(C1=CC=C(CC#N)C=C1)(F)F | C9H6F3N
reactant | bis(2-bromoethyl)ether | 18 mmol, 2.3 mL | BrCCOCCBr | C4H8Br2O
reactant | sodium hydride | 15 mmol, 0.6 g | [H-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-(4-Trifluoromethyl-phenyl)-tetrahydro-pyran-4-carbonitrile | 1.11 g, yield: 87% | FC(C1=CC=C(C=C1)C1(CCOCC1)C#N)(F)F | C13H12F3NO
